US05140031
A. N-Cyano-N'-(4-chlorophenyl)thiourea
The suspension of monosodium cyanamide (1.9 g, 29.4 mmol) in absolute ethanol (50 mL) was slowly treated with 4-chlorophenylisothiocyanate (5.0 g, 29.4 mmol). The reaction was allowed to stir at room temperature for 1 hour and then heated at 75° C. for 4 hours. The reaction was cooled to room temperature and the colorless solid was filtered and washed with ethanol to give the title A compound (5.4 g), m.p. >250° C.

reactant | monosodium cyanamide | 29.4 mmol, 1.9 g | N#CN.[Na]
reactant | 4-chlorophenylisothiocyanate | 29.4 mmol, 5.0 g | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | N-Cyano-N'-(4-chlorophenyl)thiourea | 5.4 g | C(#N)NC(=S)NC1=CC=C(C=C1)Cl | C8H6ClN3S
